US05342846
Ethyl 1-(2,4-difluorophenyl)-6-fluoro-7-[3-(1,2,3-triazol -1-yl)-pyrrolidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate
A mixture of ethyl 1-(2,4-difluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (91 mg, 0.5 mmol), 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride (259 mg, 1.5 mmol), and DBU (380 mg, 2.5 mmol) in CH3CN (20 ml) was heated under reflux for 2 h, cooled to r.t. and stirred further for 18 h, diluted with water. Unreacted starting materials were removed by extraction with chloroform. The water layer was concentrated to give a yellow oil. Yield: 150 mg, 62%. 1H NMR (CDCl3) δ: 1.3 (t, 3H), 2.5 (m, 2H), 3.9 (m, 4H), 4.4 (q, 2H), 5.3 (m, 1H), 7.3 (m, 4H), 7.8 (d, 1H), 8.0 (d, 1H), 8.4 (s, 1H).

reactant | ethyl 1-(2,4-difluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 0.5 mmol, 91 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)OCC | C17H10ClF3N2O3
reactant | 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 1.5 mmol, 259 mg | Cl.N1(N=NC=C1)C1CNCC1
reactant | DBU | 2.5 mmol, 380 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | 20 ml | CC#N | C2H3N
solvent | water | O | H2O
product | Ethyl 1-(2,4-difluorophenyl)-6-fluoro-7-[3-(1,2,3-triazol -1-yl)-pyrrolidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)N1CC(CC1)N1N=NC=C1)F)=O)C(=O)OCC | C23H19F3N6O3
